US09023858B2
2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione
To a solution of 2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (535 mg) in N,N-dimethylformamide (5 ml) was added sodium ethoxide (20% ethanol solution, 0.863 ml), and the mixture was stirred at 60° C. for 4 hr. The reaction mixture was allowed to be cooled to room temperature, saturated brine was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, methanol/ethyl acetate) to give the title compound (140 mg).

reactant | 2-(propylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 535 mg | C(CC)SC=1N(C(C2=C(N1)C(NC=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
reactant | sodium ethoxide | 0.863 ml | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 140 mg | C(C)OC=1N(C(C2=C(N1)C(NC=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O4
